US07273877B2
Ethyl 6-chloro-4-(2-naphthylamino)nicotinate was dissolved in CHCl3 and reacted with Me2SO4, followed by triethylamine, AcOH and EtOH as described for example 33, step B. Purification by recrystallisation (EtOAc/Hexane) afforded ethyl 1-methyl-4-(2-naphthylamino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate as a white solid (57%); m.p. (EtOAc/Hexane) 160-163° C. 1H NMR [400 MHz, (CD3)2SO] δ 9.55 (s, 1H), 8.57 (s, 1H), 7.97 (d, J=8.8 Hz, 1H), 7.91 (dd, J=7.7, 4.7 Hz, 2H), 7.81 (d, J=1.8 Hz, 1H), 7.55-7.43 (m, 3H), 5.79 (s, 1H), 4.32 (q, J=7.1 Hz, 2H), 3.43 (s, 3H), 1.35 (t, J=7.1 Hz, 3H). Anal. Calcd for C19H18N2O3: C, 70.8; H, 5.6; N, 8.7. Found C, 70.8; H, 5.5; N, 8.7.

reactant | Ethyl 6-chloro-4-(2-naphthylamino)nicotinate | ClC1=NC=C(C(=O)OCC)C(=C1)NC1=CC2=CC=CC=C2C=C1 | C18H15ClN2O2
reactant | Me2SO4 | COS(=O)(=O)OC | C2H6O4S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | AcOH | CC(=O)O | C2H4O2
reactant | EtOH | CCO | C2H6O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | ethyl 1-methyl-4-(2-naphthylamino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate | 57% | CN1C=C(C(=CC1=O)NC1=CC2=CC=CC=C2C=C1)C(=O)OCC | C19H18N2O3
